US06566367B2
Add spiro[isobenzofuran-1,4′-piperidin]-3-one (100 mg, 0.49 mmol) to 1 mL of a ˜0.2 M stock solution of 1′-(trans-4-ethoxycarbonyl-cyclohexylmethyl) carbamoyl chloride (prepared from trans-4-aminomethyl-cyclohexanecarboxylic acid ethyl ester using the same procedure given in Example 15 step A) and heat to 60° C. for 16 hours. Cool the solution, dilute with EtOAc and wash with brine. Dry the solution (Na2SO4) and concentrate under reduced pressure. Purify the crude product using preparative plate chromatography and triturate the resulting material with ether to obtain 1′-(trans-4-ethoxycarbonyl-cyclohexylmethyl)carbamoyl-spiro[isobenzofuran-1,4′piperidin]-3-one as a white solid.

reactant | spiro[isobenzofuran-1,4′-piperidin]-3-one | 0.49 mmol, 100 mg | N1CCC2(CC1)OC(C1=CC=CC=C12)=O | C12H13NO2
reactant | trans-4-aminomethyl-cyclohexanecarboxylic acid ethyl ester | C(C)OC(=O)[C@@H]1CC[C@H](CC1)CN | C10H19NO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
product | 1′-(trans-4-ethoxycarbonyl-cyclohexylmethyl)carbamoyl-spiro[isobenzofuran-1,4′piperidin]-3-one | C(C)OC(=O)[C@@H]1CC[C@H](CC1)CNC(=O)N1CCC2(CC1)OC(C1=CC=CC=C12)=O | C23H30N2O5
